US07846960B2
6-(4-Hydroxy-2-methyl-phenyl)-1H-indole-3-carboxylic Acid Methyl Ester
A mixture of 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (213 mg, 0.910 mmol), 6-bromo-1H-indole-3-carboxylic acid methyl ester (193 mg, 0.759 mmol), tetrakis(triphenylphosphine)palladium(0) (57 mg, 0.046 mmol), DMF (2.7 mL), ethanol (1.34 mL) and 2M aqueous potassium carbonate (1.34 mL) is heated to 100° C. for 60 hours. The reaction is cooled to room temperature, diluted with water and acidified with 1 N HCl. The resulting solution is extracted with ethyl acetate. The combined organic layers are dried over anhydrous magnesium sulfate and concentrated. The residue is purified with flash chromatography eluting with 25 to 40% ethyl acetate/heptane to give the title compound (134 mg, 63%). ES/MS m/e 280.3 (M−1).

reactant | 3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 0.910 mmol, 213 mg | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)O | C13H19BO3
reactant | 6-bromo-1H-indole-3-carboxylic acid methyl ester | 0.759 mmol, 193 mg | COC(=O)C1=CNC2=CC(=CC=C12)Br | C10H8BrNO2
reactant | potassium carbonate | 2M, 1.34 mL | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.046 mmol, 57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.34 mL | C(C)O | C2H6O
solvent | DMF | 2.7 mL | CN(C)C=O | C3H7NO
product | 6-(4-Hydroxy-2-methyl-phenyl)-1H-indole-3-carboxylic Acid Methyl Ester | 134 mg, 63% | COC(=O)C1=CNC2=CC(=CC=C12)C1=C(C=C(C=C1)O)C | C17H15NO3
